### PR TITLE
feat(OEIS): add solved conjecture for 358684

### PR DESCRIPTION
**Pull request by mo271**
discovered by AlphaProof

### CODE REVIEW

File: FormalConjectures/OEIS/358684.lean [hunk 1]
```diff
@@ -0,0 +1,129 @@
...
+    unfold Nat.fermatNumber
+    exact (Nat.minFac_prime (by norm_num)).one_lt
+  )
+
+/--
+The minimization definition is equivalent to the closed form.
+-/
+@[category API, AMS 11]
+theorem a_equiv_a' (n : ℕ) : a n = a' n := by
+  sorry
```
Comment (mo271) [inline FormalConjectures/OEIS/358684.lean]: AlphaProof can prove this (see intermediate commit), but I only added `a'` for illustrate purposes, I think it is informally pretty clear that those two definitions are equivalent.

File: FormalConjectures/OEIS/358684.lean [hunk 2]
```diff
@@ -0,0 +1,129 @@
...
+A093179(n) is minFac(fermatNumber n), the smallest prime factor of the n-th Fermat number.
+The conjecture states that if $P_n$ is the smallest prime factor of the $n$-th Fermat number,
+then $\nu_2(P_n - 1) \le 2^n - a(n)$.
+Substituting the definition of $a(n)$, this is equivalent to $\nu_2(P_n - 1) \le \lfloor \log_2(P_n) \rfloor$.
+
+This is Conjecture 3.4 in [SA22].
+-/
+@[category research solved, AMS 11]
+theorem oeis_358684_conjecture_0 (n : ℕ) :
+  padicValNat 2 (minFac (fermatNumber n) - 1) ≤ 2 ^ n - a n := by
```
Comment (YaelDillies) [inline FormalConjectures/OEIS/358684.lean]:
```suggestion
    padicValNat 2 (minFac (fermatNumber n) - 1) ≤ 2 ^ n - a n := by
```

File: FormalConjectures/OEIS/358684.lean (hunk 1 above)
Comment (YaelDillies) [reply FormalConjectures/OEIS/358684.lean]: How long is the proof. Might as well include it if it's reasonably short

File: FormalConjectures/OEIS/358684.lean [hunk 3]
```diff
@@ -0,0 +1,129 @@
...
+number exceeds $2^{2^n - k}$.
+Let $F_n = 2^{2^n} + 1$ be the $n$-th Fermat number, and $P_n$ be its smallest prime factor.
+The definition of $a(n)$ is equivalent to the closed form:
+$$a(n) = 2^n - \lfloor \log_2(P_n) \rfloor$$
+where $P_n = \operatorname{minFac}(\operatorname{fermatNumber} n)$.
+The subtraction is defined in $\mathbb{N}$ and is safe
+ since $P_n \le F_n$, implying $\log_2 P_n < 2^n$.
+-/
+def a (n : ℕ) : ℕ :=
+  let pn := minFac (fermatNumber n)
```
Comment (Paul-Lez) [inline FormalConjectures/OEIS/358684.lean]:
```suggestion
  letI pn := minFac (fermatNumber n)
```

File: FormalConjectures/OEIS/358684.lean [hunk 4]
```diff
@@ -0,0 +1,129 @@
...
+  (2 ^ n) - (log2 pn)
+
+/--
+The "original" definition: $a'(n)$ is the minimum $k$ such that $P_n > 2^{2^n - k}$.
+We use `Nat.find` which returns the smallest natural number satisfying a predicate.
+-/
+noncomputable def a' (n : ℕ) : ℕ :=
+  let Pn := minFac (fermatNumber n)
```
Comment (Paul-Lez) [inline FormalConjectures/OEIS/358684.lean]:
```suggestion
  letI Pn := minFac (fermatNumber n)
```

File: FormalConjectures/OEIS/358684.lean [hunk 5]
```diff
@@ -0,0 +1,129 @@
...
+The minimization definition is equivalent to the closed form.
+-/
+@[category API, AMS 11]
+theorem a_equiv_a' (n : ℕ) : a n = a' n := by
+  sorry
+
+@[category test, AMS 11]
+theorem zero : a 0 = 0 := by
+  simp [a]
+  norm_num [Nat.log2]
```
Comment (Paul-Lez) [inline FormalConjectures/OEIS/358684.lean]:
```suggestion
  norm_num [a, Nat.log2]
```

File: FormalConjectures/OEIS/358684.lean [hunk 6]
```diff
@@ -0,0 +1,129 @@
...
+
+@[category test, AMS 11]
+theorem one : a 1 = 0 := by
+  simp [a]
+  norm_num [Nat.log2]
```
Comment (Paul-Lez) [inline FormalConjectures/OEIS/358684.lean]:
```suggestion
  norm_num [a, Nat.log2]
```

File: FormalConjectures/OEIS/358684.lean [hunk 7]
```diff
@@ -0,0 +1,129 @@
...
+
+@[category test, AMS 11]
+theorem two : a 2 = 0 := by
+  norm_num [a]
+  norm_num [Nat.log2]
```
Comment (Paul-Lez) [inline FormalConjectures/OEIS/358684.lean]:
```suggestion
  norm_num [a, Nat.log2]
```

File: FormalConjectures/OEIS/358684.lean [hunk 8]
```diff
@@ -0,0 +1,129 @@
...
+
+@[category test, AMS 11]
+theorem three : a 3 = 0 := by
+  rw[a]
+  norm_num only [Nat.log2_eq_log_two,Nat.fermatNumber]
```
Comment (Paul-Lez) [inline FormalConjectures/OEIS/358684.lean]:
```suggestion
  norm_num only [a, Nat.log2_eq_log_two,Nat.fermatNumber]
```

File: FormalConjectures/OEIS/358684.lean [hunk 9]
```diff
@@ -0,0 +1,129 @@
...
+
+@[category test, AMS 11]
+theorem four : a 0 = 0 := by
+  norm_num[a]
+  norm_num[Nat.log2]
```
Comment (Paul-Lez) [inline FormalConjectures/OEIS/358684.lean]:
```suggestion
  norm_num[a, Nat.log2]
```

File: FormalConjectures/OEIS/358684.lean [hunk 10]
```diff
@@ -0,0 +1,129 @@
...
+
+@[category test, AMS 11]
+theorem five : a 5 = 23 := by
+  norm_num[a]
+  norm_num [fermatNumber,Nat.log2_eq_log_two]
```
Comment (Paul-Lez) [inline FormalConjectures/OEIS/358684.lean]:
```suggestion
  norm_num [a, fermatNumber,Nat.log2_eq_log_two]
```

**Comment by Paul-Lez** [comment]
Accidentally pushed some work to this branch - let me fix this:)

File: FormalConjectures/OEIS/358684.lean (hunk 1 above)
Comment (mo271) [reply FormalConjectures/OEIS/358684.lean]: added a prettified proof. Can possibly be made more pretty/maintainable.

File: FormalConjectures/OEIS/358684.lean [hunk 11]
```diff
@@ -0,0 +1,155 @@
...
+A093179(n) is minFac(fermatNumber n), the smallest prime factor of the n-th Fermat number.
+The conjecture states that if $P_n$ is the smallest prime factor of the $n$-th Fermat number,
+then $\nu_2(P_n - 1) \le 2^n - a(n)$.
+Substituting the definition of $a(n)$, this is equivalent to $\nu_2(P_n - 1) \le \lfloor \log_2(P_n) \rfloor$.
+
+This is Conjecture 3.4 in [SA22].
+-/
+@[category research solved, AMS 11]
+theorem oeis_358684_conjecture_0 (n : ℕ) :
+  padicValNat 2 (minFac (fermatNumber n) - 1) ≤ 2 ^ n - a n := by
```
Comment (YaelDillies) [inline FormalConjectures/OEIS/358684.lean]:
```suggestion
    padicValNat 2 (minFac (fermatNumber n) - 1) ≤ 2 ^ n - a n := by
```
